US04361568
E-56. Following the procedure described in Example E-1 but using in place of 1-methyl-5-(4-pyridinyl)-1H-pyrazolo[3,4-b]pyridin-3-amine a molar equivalent quantity of N-ethyl-1-methyl-5-(4-pyridinyl)-1H-pyrazolo[3,4-b]pyridin-3-amine, it is contemplated that there can be obtained N-ethyl-N,1-dimethyl-5-(4-pyridinyl)-1H-pyrazolo[3,4-b]pyridin-3-amine.

reactant | 1-methyl-5-(4-pyridinyl)-1H-pyrazolo[3,4-b]pyridin-3-amine | CN1N=C(C=2C1=NC=C(C2)C2=CC=NC=C2)N | C12H11N5
reactant | N-ethyl-1-methyl-5-(4-pyridinyl)-1H-pyrazolo[3,4-b]pyridin-3-amine | C(C)NC1=NN(C2=NC=C(C=C21)C2=CC=NC=C2)C | C14H15N5
product | N-ethyl-N,1-dimethyl-5-(4-pyridinyl)-1H-pyrazolo[3,4-b]pyridin-3-amine | C(C)N(C1=NN(C2=NC=C(C=C21)C2=CC=NC=C2)C)C | C15H17N5
